US03969463
10-Amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid (5.0 g., 0.018 mole) and acetic anhydride (50 ml.) are stirred and heated on a steam bath for 3 hours. After cooling, the solid precipitate is separated by filtration, washed with water, dried, then recrystallized from N,N-dimethyl formamide to provide 10-acetamido-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. 277°-279° C.

reactant | 10-Amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid | 0.018 mole, 5.0 g | NC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C14H14N2O3
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 10-acetamido-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(C)(=O)NC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C16H16N2O4
